US07807709B2
A. (3S*,4S*)-1-Benzyl-pyrrolidine-3,4-dicarboxylic acid monoethyl ester
To a stirred solution of mono ethyl fumarate (2.85 g, 19.8 mmol) and trifluoroacetic acid (1.98 mmol, 0.15 mL) in methylene chloride (50 mL), N-benzyl-N-(methoxymethyl)trimethylsilyl amine (Aldrich) (9.41 g, 39.6 mmol) is added at 0° C. under N2. The mixture is stirred at 0° C. for 30 min and then at RT over 48 h. The crude material is concentrated and purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 85:15 to 85:15+2% NH4OH) to give the title compound. MS (LC-MS): 278.0 [M+H]+. 1H-NMR (CD3OD, 400 MHz): δ=1.29 (t, 3H), 3.28 (m, 5H), 3.60 (m, 1 H), 4.07 (m, 2H), 4.20 (m, 2H), 7.47 (m, 5H) ppm.

reactant | mono ethyl fumarate | 19.8 mmol, 2.85 g | C(\C=C\C(=O)[O-])(=O)OCC
reactant | trifluoroacetic acid | 1.98 mmol, 0.15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-benzyl-N-(methoxymethyl)trimethylsilyl amine | 39.6 mmol, 9.41 g | C(C1=CC=CC=C1)N(COC)[Si](C)(C)C | C12H21NOSi
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (3S*,4S*)-1-Benzyl-pyrrolidine-3,4-dicarboxylic acid monoethyl ester | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)O)CC1=CC=CC=C1 | C15H19NO4
